US05648496
6-Methoxy-3-nitropyridine (154 mg, 1 mmol) and O-methylhydroxylamine (71 mg, 1.5 mmol) were dissolved in DMSO (2 ml), and a resulting solution was added dropwise to a DMSO solution (3 ml) containing potassium tert-butoxide (336 mg, 3 mmol) and zinc (II) chloride (136 mg, 1 mmol) at 25° C. After completion of the addition, the resulting mixture was stirred at 25 ° C. for 9 hours and an aqueous saturated ammonium chloride solution (50 ml) was added, followed by extraction with ethyl acetate (80 ml). A resulting organic layer was dried over anhydrous magnesium sulfate, and then isolated and purified by subjection to silica gel thin layer chromatography [eluent: ethyl acetate/hexane=1/1] to obtain 147 mg of 2-amino-6-methoxy-3-nitropyridine (yield: 87%).

reactant | 6-Methoxy-3-nitropyridine | 1 mmol, 154 mg | COC1=CC=C(C=N1)[N+](=O)[O-] | C6H6N2O3
reactant | O-methylhydroxylamine | 1.5 mmol, 71 mg | CON | CH5NO
reactant | potassium tert-butoxide | 3 mmol, 336 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
catalyst | zinc (II) chloride | 1 mmol, 136 mg | [Cl-].[Zn+2].[Cl-]
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 2-amino-6-methoxy-3-nitropyridine | 147 mg, yield: 87% | NC1=NC(=CC=C1[N+](=O)[O-])OC | C6H7N3O3
